US07888349B2
Hydrogen chloride (20 mL of 4 N in 1,4-dioxane) was added to a solution of tert-butyl 6-amino-3-benzyloxy-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-9(10H)-carboxylate (3.89 g, 8.46 mmol, prepared as described in Part A of Examples 435-450) in dichloromethane (50 mL), and the reaction was stirred at ambient temperature for one hour. Diethyl ether was added, and a precipitate formed. The precipitate was isolated by filtration and dried in a vacuum oven at 65° C. to provide 3.52 g of 3-benzyloxy-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine dihydrochloride.

reactant | Hydrogen chloride | 4 N, 20 mL | Cl | ClH
reactant | tert-butyl 6-amino-3-benzyloxy-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-9(10H)-carboxylate | NC1=NC2=CC(=CC=C2C2=C1N=C1N2CCCN(C1)C(=O)OC(C)(C)C)OCC1=CC=CC=C1 | C26H29N5O3
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-benzyloxy-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine dihydrochloride | 3.52 g | Cl.Cl.C(C1=CC=CC=C1)OC1=CC=C2C3=C(C(=NC2=C1)N)N=C1N3CCCNC1 | InChI=1S/C21H21N5O.2ClH/c22-21-19-20(26-10-4-9-23-12-18(26)25-19)16-8-7-15(11-17(16)24-21)27-13-14-5-2-1-3-6-14;;/h1-3,5-8,11,23H,4,9-10,12-13H2,(H2,22,24);2*1H
